* NMOS Transistors
M1 2 1 0 0 NMOS
M2 3 Vb2 0 0 NMOS
M3 2 Vb3 0 0 NMOS
M4 VDD Vb4 0 0 NMOS
* PMOS Transistor
M5 4 Vin 3 3 PMOS
* Voltage Sources
Vb1 1 0 DC <value>
Vb2 2 0 DC <value>
Vb3 2 0 DC <value>
Vb4 VDD 0 DC <value>
? Missing component
* Node Annotations
* 0 - Ground
* 1..4 - Annotated from schematic
